US05382380
A reaction vessel was charged with 10 g of 2-fluorophenol, 25 g of (S)-1-methylhexyl tosylate, 20 g of potassium carbonate and 160 ml of MEK, and the mixture was refluxed with stirring for 14 hours (the disappearance of the starting materials was confirmed by TLC). The reaction liquid was poured into diluted hydrochloric acid and the mixture was extracted with benzene. The extract was washed with water and dried over Glauber's salt, and the solvents were distilled off. The residue was distilled under reduced pressure to obtain 14 g (74.5%) of (R)-2-(1-methylhexyl)oxyfluorobenzene.

reactant | 2-fluorophenol | 10 g | FC1=C(C=CC=C1)O | C6H5FO
reactant | (S)-1-methylhexyl tosylate | 25 g | S(=O)(=O)(O[C@H](CCCCC)C)C1=CC=C(C)C=C1 | C14H22O3S
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | MEK | 160 ml | CCC(=O)C | C4H8O
product | (R)-2-(1-methylhexyl)oxyfluorobenzene | 14 g, 74.5% | C[C@H](CCCCC)OC1=C(C=CC=C1)F | C13H19FO
